US06747023B1
4-[(6-Chloronaphthalen-2-yl)sulfonyl]-2-[[N-(2-methoxybenzyl)]carbamoyl]-1-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazine hydrochloride
Starting materials: lithium 6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylate, 1-[(6-chloronaphthalen-2-yl)sulfonyl]-3-[[N-(2-methoxybenzyl)]carbamoyl]piperazine hydrochloride

reactant | lithium 6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylate | CC1CC2=C(CN1)SC(=N2)C(=O)[O-].[Li+]
reactant | 1-[(6-chloronaphthalen-2-yl)sulfonyl]-3-[[N-(2-methoxybenzyl)]carbamoyl]piperazine hydrochloride | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(NCC1)C(NCC1=C(C=CC=C1)OC)=O
product | 4-[(6-Chloronaphthalen-2-yl)sulfonyl]-2-[[N-(2-methoxybenzyl)]carbamoyl]-1-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazine hydrochloride | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)C(=O)C=1SC=2CNC(CC2N1)C)C(NCC1=C(C=CC=C1)OC)=O | InChI=1S/C31H32ClN5O5S2.ClH/c1-19-13-25-28(17-33-19)43-30(35-25)31(39)37-12-11-36(18-26(37)29(38)34-16-22-5-3-4-6-27(22)42-2)44(40,41)24-10-8-20-14-23(32)9-7-21(20)15-24;/h3-10,14-15,19,26,33H,11-13,16-18H2,1-2H3,(H,34,38);1H
